US09376438B2
Into a 100 mL, round-bottom flask purged and maintained under an inert atmosphere of nitrogen, was placed a solution of tert-butyl 3-[4-amino-3-[4-(2-fluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidine-1-carboxylate (200 mg, 0.40 mmol, 1.00 equiv) in dichloromethane (20 mL), and trifluoroacetic acid (10 g, 87.70 mmol, 221.25 equiv). The resulting solution was stirred overnight at room temperature and then concentrated under vacuum. The pH value of the solution was adjusted to 8-10 with 10% aqueous sodium carbonate. The solution was extracted with dichloromethane and the organic layers were combined and dried over anhydrous sodium sulfate and concentrated under vacuum to give 0.1 g (62%) of 3-[4-(2-fluorophenoxy)phenyl]-1-(piperidin-3-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine as a light yellow solid.

reactant | tert-butyl 3-[4-amino-3-[4-(2-fluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidine-1-carboxylate | 0.40 mmol, 200 mg, 1.00 equiv | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=C(C=CC=C2)F)C2CN(CCC2)C(=O)OC(C)(C)C | C27H29FN6O3
reactant | 3-[4-(2,3-difluorophenoxy)phenyl]-1-[(2R)-pyrrolidin-2-ylmethyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine bis(trifluoroacetic acid) | 87.70 mmol, 10 g, 221.25 equiv | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.FC1=C(OC2=CC=C(C=C2)C2=NN(C3=NC=NC(=C32)N)C[C@@H]3NCCC3)C=CC=C1F
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-[4-(2-fluorophenoxy)phenyl]-1-(piperidin-3-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.1 g, 62% | FC1=C(OC2=CC=C(C=C2)C2=NN(C3=NC=NC(=C32)N)C3CNCCC3)C=CC=C1 | C22H21FN6O
